US04762829
1-(3,7,11,15-Tetramethyl-2,6,10,14-hexadecatetraenoyl)-4-methylpiperazine
The procedure of Example 9 was repeated except that 6.1 g of 3,7,11,15-tetramethyl-2,6,10,14-hexadecatetraenoic acid and 3.3 ml of 1-methylpiperazine were used as starting materials. 6.9 g (yield 90%) of the title compound was obtained as a colorless oil.

reactant | 3,7,11,15-tetramethyl-2,6,10,14-hexadecatetraenoic acid | 6.1 g | CC(=CC(=O)O)CCC=C(CCC=C(CCC=C(C)C)C)C | C20H32O2
reactant | 1-methylpiperazine | 3.3 ml | CN1CCNCC1 | C5H12N2
product | 1-(3,7,11,15-Tetramethyl-2,6,10,14-hexadecatetraenoyl)-4-methylpiperazine | 6.9 g, yield 90% | CC(=CC(=O)N1CCN(CC1)C)CCC=C(CCC=C(CCC=C(C)C)C)C | C25H42N2O
